US05498630
5-Chloro-N-(2-propenyl)-3-(trimethylsilyl)-2-thiophenecarboxamide
The title compound was prepared from 5-chloro-2-thiophenecarboxylic acid and allylamine, followed by reaction with TMSCl using the methods of Example 248 to afford 0.7 g of the title compound as a white solid. m.p. 63°-66° C.

reactant | 5-chloro-2-thiophenecarboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | allylamine | C(C=C)N | C3H7N
reactant | TMSCl | C[Si](C)(C)Cl | C3H9ClSi
product | 5-Chloro-N-(2-propenyl)-3-(trimethylsilyl)-2-thiophenecarboxamide | 0.7 g | ClC1=CC(=C(S1)C(=O)NCC=C)[Si](C)(C)C | C11H16ClNOSSi
